US09290451B2
h) 5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid and (2S)-2-amino-4-methyl-pentanamide (CAN 687-51-4) as starting materials, MS (EI): m/e=384.2 [M+H]+.

reactant | 5-cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)O | C16H14FNO2
reactant | (2S)-2-amino-4-methyl-pentanamide | N[C@H](C(=O)N)CC(C)C | C6H14N2O
product | 5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide | C(N)(=O)[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)C1CC1)CC1=CC=C(C=C1)F | C22H26FN3O2
